.subckt and node_a node_b node_out vdd gnd 

Mp1 node_y node_a vdd vdd CMOSP W = {wp1} L = {lp1}
 + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
Mp2 node_y node_b vdd vdd CMOSP W = {wp2} L = {lp2}
 + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}
Mp3 node_out node_y vdd vdd CMOSP W = {wp3} L = {lp3}
 + AS = {5*wp3*LAMBDA} PS = {10*LAMBDA + 2*wp3} AD = {5*wp3*LAMBDA} PD = {10*LAMBDA + 2*wp3}

Mn1 node_y node_a node_x gnd CMOSN W = {wn1} L = {ln1}
+ AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
Mn2 node_x node_b gnd gnd CMOSN W = {wn2} L = {ln2}
+ AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
Mn3 node_out node_y gnd gnd CMOSN W = {wn3} L = {ln3}
+ AS = {5*wn3*LAMBDA} PS = {10*LAMBDA + 2*wn3} AD = {5*wn3*LAMBDA} PD = {10*LAMBDA + 2*wn3}

.ends and 

